US04226867
A mixture of 4-amino-6-chloro-1,3-benzenedisulfonamide (4.3 g., 0.015 mole) and 4-(2-dimethylaminoethyl) cyclohexanone (3.0 g., 0.018 mole) in 3 N ethanolic HCl (50 ml.) is refluxed for one and one half hours and cooled to give 4'-(2-dimethylaminoethyl)-6-chlorospiro-[2H-1,2,4-benzothiadiazine-3(4H),1'-cyclohexane]-7-sulfonamide-1,1-dioxide hydrochloride (m.p. 279°-81° C.) which is dissolved in warm water (300 ml.) and treated with aqueous ammonia (1 ml.) to give 4'-(2-dimethylaminoethyl)-6-chlorospiro[2H-1,2,4-benzothiadiazine-3(4H),1'-cyclohexane]-7-sulfonamide-1,1-dioxide which melts at 238°-9° C. after recrystallization from dimethylformamide-water.

reactant | 4-amino-6-chloro-1,3-benzenedisulfonamide | 0.015 mole, 4.3 g | NC1=C(C=C(C(=C1)Cl)S(=O)(=O)N)S(=O)(=O)N | C6H8ClN3O4S2
reactant | 4-(2-dimethylaminoethyl) cyclohexanone | 0.018 mole, 3.0 g | CN(CCC1CCC(CC1)=O)C | C10H19NO
solvent | HCl | 3 N, 50 ml | Cl | ClH
product | 4'-(2-dimethylaminoethyl)-6-chlorospiro-[2H-1,2,4-benzothiadiazine-3(4H),1'-cyclohexane]-7-sulfonamide-1,1-dioxide hydrochloride | Cl.CN(CCC1CCC2(CC1)NS(C1=C(N2)C=C(C(=C1)S(=O)(=O)N)Cl)(=O)=O)C | InChI=1S/C16H25ClN4O4S2.ClH/c1-21(2)8-5-11-3-6-16(7-4-11)19-13-9-12(17)14(26(18,22)23)10-15(13)27(24,25)20-16;/h9-11,19-20H,3-8H2,1-2H3,(H2,18,22,23);1H
